US03943154
EXAMPLE 19: 3-[4-(2,4,6-TRI-ISOPROPYLBENZENESULFONAMIDO)BENZENESULFONYL]acrylonitrile
a solution of 9.1 g (0.03 mol) of 2,4,6-tri-isopropylbenzenesulfonyl chloride in 50 ml dioxane is added at room temperature to a solution of 6.3 g (0.03 mol) of 3-(4-aminobenzenesulfonyl)acrylonitrile in 150 ml dioxane, the dioxane solution additionally containing 3 ml (0.03 mol) of pyridine. After 8 hours the reaction mixture is filtered and evaporated and a tannish solid consisting of 3-[4-(2,4,6-tri-isopropylbenzenesulfonamido)benzenesulfonyl]acrylonitrile is obtained: ##SPC19##

reactant | 2,4,6-tri-isopropylbenzenesulfonyl chloride | 0.03 mol, 9.1 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | 3-(4-aminobenzenesulfonyl)acrylonitrile | 0.03 mol, 6.3 g | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | pyridine | 0.03 mol, 3 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3-[4-(2,4,6-TRI-ISOPROPYLBENZENESULFONAMIDO)BENZENESULFONYL]acrylonitrile | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C24H30N2O4S2
